US07402680B2
1-(2,4-Dichloro-benzyl)-3-phenyl-4,5,6,7-tetrahydro-1H-pyrrolo[3,2-c]pyridine
The title compound (0.43 g) was prepared from 0.55 g of 4-oxo-piperidine-1-carboxylic acid tert-butyl ester, 370 μL of 2,4-dichlorobenzylamine, and 0.41 g of (2-nitro-vinyl)-benzene, using EtOH as the solvent. MS (ESI): exact mass calculated for C20H18Cl2N2, 356.08; found, m/z 357.1 [M+H]+. 1H NMR (500 MHz, CD3OD): 7.55-7.50 (m, 2H), 7.37-7.29 (m, 4H), 7.22-7.18 (m, 1H), 7.07 (s, 1H), 6.77 (d, J=8.5 Hz, 1H), 5.23 (s, 2H), 4.38 (s, 2H), 3.54 (t, J=6.3 Hz, 2H), 2.86 (t, J=6.3 Hz, 2H).

reactant | 4-oxo-piperidine-1-carboxylic acid tert-butyl ester | 0.55 g | C(C)(C)(C)OC(=O)N1CCC(CC1)=O | C10H17NO3
reactant | 2,4-dichlorobenzylamine | 370 μL | ClC1=C(CN)C=CC(=C1)Cl | C7H7Cl2N
reactant | (2-nitro-vinyl)-benzene | 0.41 g | [N+](=O)([O-])C=CC1=CC=CC=C1 | C8H7NO2
solvent | EtOH | CCO | C2H6O
product | 1-(2,4-Dichloro-benzyl)-3-phenyl-4,5,6,7-tetrahydro-1H-pyrrolo[3,2-c]pyridine | 0.43 g | ClC1=C(CN2C=C(C=3CNCCC32)C3=CC=CC=C3)C=CC(=C1)Cl | C20H18Cl2N2
